US04235918
2 g of 4-(4-chloro-3-sulfamoylphenyl)-4-oxobutanoic acid N-benzyl-N-methylamide are hydrogenated in the presence of 0.5 g of palladium black in 40 ml of methanol in a duck-shaped shaking vessel until the theoretical amount of hydrogen has been taken up, the catalyst is filtered off, the filtrate is concentrated and the residue is worked up analogously to the instructions 1, to give 5-(4-chloro-3-sulfamoylphenyl)-5-hydroxy-1-methyl-2-oxopyrrolidine. Melting point 147°-149° C.

reactant | 4-(4-chloro-3-sulfamoylphenyl)-4-oxobutanoic acid N-benzyl-N-methylamide | 2 g | C(C1=CC=CC=C1)N(C(CCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O)=O)C | C18H19ClN2O4S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 40 ml | CO | CH4O
catalyst | palladium black | 0.5 g | [Pd] | Pd
product | 5-(4-chloro-3-sulfamoylphenyl)-5-hydroxy-1-methyl-2-oxopyrrolidine | ClC1=C(C=C(C=C1)C1(CCC(N1C)=O)O)S(N)(=O)=O | C11H13ClN2O4S
